US07678803B2
To a solution of 6-fluoroisoquinoline (2.64 g, 17.9 mmol) in CH2Cl2 (70 mL) cooled at 0° C., MCPBA is added (3.4 g, 19.69 mmol). The reaction mixture is stirred at RT for 16 h. After 1 h of stirring, a yellow white precipitate forms. The solvent is evaporated under reduced pressure. To the yellow solid is added CH2Cl2 (5 mL), and the solid is isolated by vacuum filtration. Rinsing the solid with CH2Cl2 yields a white solid, which is dried under vacuum to afford 3 g (100%) of 6-fluoro-isoquinoline N-oxide.

reactant | 6-fluoroisoquinoline | 17.9 mmol, 2.64 g | FC=1C=C2C=CN=CC2=CC1 | C9H6FN
reactant | MCPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
product | 6-fluoro-isoquinoline N-oxide | 3 g, 100% | FC=1C=C2C=C[N+](=CC2=CC1)[O-] | C9H6FNO
